US07129239B2
Preparation of Intermediate 6-chloro-8-(4-chloro-2-fluorophenyl)-9-(4-chloro-phenyl)-9H-purine (I-(7A-91)b)
A suspension of 4-chloro-N-[4-chloro-6-(4-chlorophenylamino)-pyrimidin-5-yl]-2-fluorobenzamide I-(7A-91)a (8.3 g, 20 mmol) in POCl3 (100 ml) was heated to reflux. The light brown reaction became homogeneous over 2 hours. After refluxing 3 hours, the reaction mixture was cooled and concentrated under reduced pressure to give a viscous oil. The residue was diluted with ethyl acetate and poured over ice/aqueous sodium bicarbonate. The organic layer was separated, washed with brine, dried (Na2SO4), and concentrated. Crystallization from diethyl ether afforded product I-(7A-91)b (5.8 g, 73%) as an off-white solid: +ESI MS (M+1) 393.0; 1H NMR (400 MHz, DMSO-d6) δ 8.81 (s, 1H), 7.72 (t, J=8.1 Hz, 1H), 7.60–7.55 (m, 3H), 7.50–7.42 (m, 3H).

reactant | 4-chloro-N-[4-chloro-6-(4-chlorophenylamino)-pyrimidin-5-yl]-2-fluorobenzamide | ClC1=CC(=C(C(=O)NC=2C(=NC=NC2NC2=CC=C(C=C2)Cl)Cl)C=C1)F | C17H10Cl3FN4O
solvent | POCl3 | 100 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-8-(4-chloro-2-fluorophenyl)-9-(4-chloro-phenyl)-9H-purine | ClC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)F | C17H8Cl3FN4
